US06326369B1
4-[3-(4,5,6,7-Tetramethoxyindan-2-yl)propoxy]benzoic acid
To a solution of methyl 4-[3-(4,5,6,7-tetramethoxyindan-2-yl)propoxy]benzoate (7.35 g) in methanol (74 ml) was dropwise added aqueous sodium hydroxide (3N, 8.57 ml), which was heated under reflux for 6 hr. The reaction mixture was concentrated in vacuo, made acidic with 1N hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride and dried. The solvent was removed in vacuo. The residue was recrystallized from hexane-ethyl acetate to yield the entitled compound (6.58 g) as crystals.

reactant | methyl 4-[3-(4,5,6,7-tetramethoxyindan-2-yl)propoxy]benzoate | 7.35 g | COC1=C2CC(CC2=C(C(=C1OC)OC)OC)CCCOC1=CC=C(C(=O)OC)C=C1 | C24H30O7
reactant | sodium hydroxide | 3N, 8.57 ml | [OH-].[Na+]
solvent | methanol | 74 ml | CO | CH4O
product | 4-[3-(4,5,6,7-Tetramethoxyindan-2-yl)propoxy]benzoic acid | 6.58 g | COC1=C2CC(CC2=C(C(=C1OC)OC)OC)CCCOC1=CC=C(C(=O)O)C=C1 | C23H28O7
